US08114868B2
3-((S)-1-{4-[1-(3-Hydroxy-2,2-dimethyl-propyl)-2-oxo-1,2-dihydro-pyridin-4-yl]phenyl}-ethyl)-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one
2 M aqueous Na2CO3 solution (0.32 mL) was added to a mixture of 4-bromo-1-(3-hydroxy-2,2-dimethyl-propyl)-1H-pyridin-2-one (0.13 g) and (S)-6-(2-hydroxy-2-methylpropyl) -6-phenyl-3-[(S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl]-1,3-oxazinan-2-one (0.15 g) in N,N-dimethylformamide (3 mL). The resulting mixture was sparged with argon for 5 min, before [1,1′-bis(diphenylphosphino)-ferrocene]dichloro-palladium(II) dichloromethane complex (26 mg) was added. The mixture was heated to 100° C. and stirred at this temperature for 4 h. After cooling to ambient temperature, water was added and the resulting mixture was extracted with ethyl acetate. The combined organic extracts were washed with water and brine and dried (MgSO4). The solvent was evaporated and the residue was purified by HPLC on reversed phase (methanol/water/NH4OH) to afford the title compound as a beige solid. Yield: 0.10 g (60% of theory); Mass spectrum (ESI+): m/z=533 [M+H]+.

reactant | Na2CO3 | 2 M, 0.32 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-bromo-1-(3-hydroxy-2,2-dimethyl-propyl)-1H-pyridin-2-one | 0.13 g | BrC1=CC(N(C=C1)CC(CO)(C)C)=O | C10H14BrNO2
reactant | (S)-6-(2-hydroxy-2-methylpropyl) -6-phenyl-3-[(S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl]-1,3-oxazinan-2-one | 0.15 g | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)(C)C | C28H38BNO5
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 3-((S)-1-{4-[1-(3-Hydroxy-2,2-dimethyl-propyl)-2-oxo-1,2-dihydro-pyridin-4-yl]phenyl}-ethyl)-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one | OCC(CN1C(C=C(C=C1)C1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O)=O)(C)C | C32H40N2O5
